US05665328
A solution of hexacosanol (250 mgs, 0.654 mmol), triethylamine (125 1, 0.900 mmol) and 4-chlorobenzenesulphonyl chloride (150 mgs, 0.711 mmol) in methylene chloride (30 ml) is stirred at room temperature for 120 h. The reaction mixture is then diluted with methylene chloride (20 ml) and washed with water (2×50 ml). The organic phase is dried over magnesium sulphate, filtered and concentrated to give a crude product. Flash column chromatography on silica gel (10:1 hexane:ethyl acetate) followed by recrystallization from methanol gives n-hexacosanyl-4-chlorobenzenesulphonate (80 mgs, 22%).

reactant | hexacosanol | 0.654 mmol, 250 mgs | C(CCCCCCCCCCCCCCCCCCCCCCCCC)O | C26H54O
reactant | triethylamine | 0.900 mmol | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzenesulphonyl chloride | 0.711 mmol, 150 mgs | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | n-hexacosanyl-4-chlorobenzenesulphonate | 80 mgs, 22% | C(CCCCCCCCCCCCCCCCCCCCCCCCC)OS(=O)(=O)C1=CC=C(C=C1)Cl | C32H57ClO3S
